US07893267B2
To a stirring solution of 0.81 g (3.0 mmol) of the above 2-chloro-3-nitro-5-trifluoromethyl-benzoic acid in 6.0 mL of DMF was added 6.0 mL of TEA, followed by 3.0 mmol of Benzylamine. The mixture was heated at 80° C. for 6 h. After cooling to r.t., 3.0 mL of 6N HCl solution was added. The solid was collected, washed with fresh water to give 2-benzylamino-3-nitro-5-trifluoromethyl-benzoic acid. LCMS: 341 (M+1)+. This product was hydrogenated according to the general procedure C to give 0.25 g of 2,3-diamino-5-trifluoromethyl-benzoic acid. LCMS: 221 (M+1)+.

reactant | 2-chloro-3-nitro-5-trifluoromethyl-benzoic acid | 3.0 mmol, 0.81 g | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H3ClF3NO4
reactant | Benzylamine | 3.0 mmol | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | 6N, 3.0 mL | Cl | ClH
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | 2-benzylamino-3-nitro-5-trifluoromethyl-benzoic acid | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C15H11F3N2O4
